US06593355B2
d. 2-[4-(N-methylamino)-3-amino-phenyl]-2-methyl-3-(1H-tetrazol-5-yl)-1-pyrrolidino-propan-1-one
Prepared analogously to Example 1f from 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-(1H-tetrazol-5-yl)-1-pyrrolidino-propan-1-one and hydrogen/palladium on activated charcoal.

reactant | 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-(1H-tetrazol-5-yl)-1-pyrrolidino-propan-1-one | C(C1=CC=CC=C1)N(C1=C(C=C(C=C1)C(C(=O)N1CCCC1)(CC1=NN=NN1)C)[N+](=O)[O-])C | C23H27N7O3
catalyst | hydrogen palladium on activated charcoal | [H][H].[Pd]
product | 2-[4-(N-methylamino)-3-amino-phenyl]-2-methyl-3-(1H-tetrazol-5-yl)-1-pyrrolidino-propan-1-one | CNC1=C(C=C(C=C1)C(C(=O)N1CCCC1)(CC1=NN=NN1)C)N | C16H23N7O
